US09126940B2
1-(4-bromophenyl)ethane-1,2-diol (0.15 g, 0.69 mmol) was dissolved in 7 mls of dry acetonitrile, followed by the addition of carbonyldiimidazole (0.17 g, 1.04 mmol). This mixture was warmed to 40° C. for 1.5 hours. After cooling to room temperature, the reaction mixture was diluted with EtOAc and washed with saturated ammonium chloride solution, water, dried over sodium sulfate and concentrated under reduced pressure. 10 g Sep Pak purification (1:1 EtOAc:Hexanes) afforded 0.095 g of 4-(4-bromophenyl)-1,3-dioxolan-2-one (57%) as a white solid.

reactant | 1-(4-bromophenyl)ethane-1,2-diol | 0.69 mmol, 0.15 g | BrC1=CC=C(C=C1)C(CO)O | C8H9BrO2
reactant | carbonyldiimidazole | 1.04 mmol, 0.17 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | acetonitrile | 7 mls | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(4-bromophenyl)-1,3-dioxolan-2-one | 0.095 g, 57% | BrC1=CC=C(C=C1)C1OC(OC1)=O | C9H7BrO3
